US06218379B1
b1) Dimethyl [3-(t-butyl-dimethyl-silanyloxy)-propyl]-phosphonate
Dimethyl methanephosphonate (70 ml; 634.8 mmol) was placed in tetrahydrofuran (1.6 l) at −75° C. and treated at this temperature with 1.6M n-butyllithium in tetrahydrofuran (437 ml; 700 mmol). After 1.5 hours at −75° C. n-butyl (t-butyl-dimethyl-silanyloxy)-acetate (52.1 g; 211.6 mmol) in tetrahydrofuran (110 ml) was added and the batch was stirred for 2 hours at −30° C. The reaction mixture was subsequently poured into 1N ice-cold aqueous hydrochloric acid (800 ml) and extracted rapidly with ethyl acetate (2×1 l). The combined organic phases were washed in succession with water (2×1 l) and saturated aqueous sodium chloride solution (500 ml), dried over magnesium sulphate and concentrated. The residue was azeotroped with toluene (2×300 ml) and distilled (b.p.: 89-95° C.; 0.42 mm Hg). Yield: 57.2 g (92%) as a colorless oil.

reactant | Dimethyl methanephosphonate | 634.8 mmol, 70 ml | CP(OC)(=O)OC | C3H9O3P
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | n-butyl (t-butyl-dimethyl-silanyloxy)-acetate | 211.6 mmol, 52.1 g | C(C)(C)(C)[Si](OCC(=O)OCCCC)(C)C | C12H26O3Si
solvent | tetrahydrofuran | 1.6 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 mmol, 437 ml | O1CCCC1 | C4H8O
product | Dimethyl [3-(t-butyl-dimethyl-silanyloxy)-propyl]-phosphonate | C(C)(C)(C)[Si](OCCCP(OC)(OC)=O)(C)C | C11H27O4PSi
